US04622403
2,3,11,12-Tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid
1-Oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid (50 mg; 0.16 mmole) was added in portions over a 3/4 hour period to a refluxing mixture of acetic acid (4 ml), concentrated hydrochloric acid (0.3 ml) and amalgamated "mossy" zinc (220 mg) under argon. After a further 3 hours under reflux no oxo-acid remained. The reaction mixture was filtered, evaporated to a small volume and diluted with a little water to afford 43 mg of the title compound.

reactant | 1-Oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid | 0.16 mmole, 50 mg | O=C1CCC=2C=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)O)C12 | C18H14O3S
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
catalyst | zinc | 220 mg | [Zn] | Zn
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 2,3,11,12-Tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid | 43 mg | C1CCC=2C=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)O)C12 | C18H16O2S
